US04289883
0.66 g of 8-hydroxy-5-(2-hydroxy-3-isopropylaminopropoxy)-3,4-dihydrocarbostyril was suspended in 10 ml of acetone, and 3.0 ml of 1 N sodium hydroxide was added thereto to form a homogeneous solution. To the resulting solution was added dropwise 0.35 g of cyclohexylcarbonyl chloride dissolved in a small amount of acetone under ice-cooling and stirring. After the reaction mixture was allowed to stand under ice-cooling for 30 minutes, the mixture was adjusted to a pH of 3 with 1 N hydrochloric acid. The solvent was evaporated, and the residue was dissolved in water and then extracted with chloroform. The aqueous layer was concentrated to dryness under reduced pressure, and the residue was subjected to silica gel chromatography using chloroform-methanol (8:1 by volume) as an eluent. The solvent was evaporated, and the residue was recrystallized from methanol-diethyl ether to obtain 0.45 g of 8-cyclohexylcarbonyloxy-5-(2-hydroxy-3-isopropylaminopropoxy)-3,4-dihydrocarbostyril hydrochloride as colorless flake-like crystals having a melting point of 227°-228° C.

reactant | 8-hydroxy-5-(2-hydroxy-3-isopropylaminopropoxy)-3,4-dihydrocarbostyril | 0.66 g | OC=1C=CC(=C2CCC(NC12)=O)OCC(CNC(C)C)O | C15H22N2O4
reactant | sodium hydroxide | 1 N, 3.0 ml | [OH-].[Na+]
reactant | cyclohexylcarbonyl chloride | 0.35 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 8-cyclohexylcarbonyloxy-5-(2-hydroxy-3-isopropylaminopropoxy)-3,4-dihydrocarbostyril hydrochloride | 0.45 g | Cl.C1(CCCCC1)C(=O)OC=1C=CC(=C2CCC(NC12)=O)OCC(CNC(C)C)O | InChI=1S/C22H32N2O5.ClH/c1-14(2)23-12-16(25)13-28-18-9-10-19(21-17(18)8-11-20(26)24-21)29-22(27)15-6-4-3-5-7-15;/h9-10,14-16,23,25H,3-8,11-13H2,1-2H3,(H,24,26);1H
